US07399759B2
tert-Butyl 3-[(6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl)methoxy]propanoate
tert-Butyl 3-[(2-cyano-6-pyridyl)]methoxypropanoate (2.62 g, 10 mmol) and methyl thiosalicylate (1.85 g, 11 mmol) were dissolved in toluene (30 ml), and triethylamine (1.70 ml, 12 mmol) were added thereto. The reaction mixture was refluxed under nitrogen atmosphere for 15 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The titled compound (2.92 g, 71%) was given from the fraction eluted with ethyl acetate-hexane (1:2, v/v) and recrystallized from ethyl acetate-isopropyl ether.

reactant | tert-Butyl 3-[(2-cyano-6-pyridyl)]methoxypropanoate | 10 mmol, 2.62 g | C(#N)C1=NC(=CC=C1)COCCC(=O)OC(C)(C)C | C14H18N2O3
reactant | methyl thiosalicylate | 11 mmol, 1.85 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 12 mmol, 1.70 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-[(6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl)methoxy]propanoate | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)COCCC(=O)OC(C)(C)C | C21H22N2O4S
